US06818652B2
A suspension of methyl triphenylphosphonium bromide (2.293 g, 6.42 mmole) in 40 mL of THF at 0° C., was treated dropwise with 2.6 mL of 2.5M butyllithium. The mixture was stirred at room temperature for 30 minutes and then cooled to 0° C. A solution of 1-(4,4-dimethyl-thiochroman-7-yl)-hexan-1-one (1.183 g, 4.28 mmole) in 10 mL of THF was added to the ylide solution. The reaction mixture was stirred at room temperature for one hour, quenched by the addition of 50 mL water and was extracted with three 50 mL portions of ether. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a yellow solid. The product was purified by flash chromatography (SiO2, 1% ethyl acetate in hexanes) to yield 0.939 g of 4,4-dimethyl-7-(1-methylene-hexyl)-thiochroman as a colorless oil.

reactant | butyllithium | 2.5M, 2.6 mL | C(CCC)[Li]
reactant | 1-(4,4-dimethyl-thiochroman-7-yl)-hexan-1-one | 4.28 mmole, 1.183 g | CC1(CCSC2=CC(=CC=C12)C(CCCCC)=O)C | C17H24OS
catalyst | methyl triphenylphosphonium bromide | 6.42 mmole, 2.293 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4,4-dimethyl-7-(1-methylene-hexyl)-thiochroman | 0.939 g | CC1(CCSC2=CC(=CC=C12)C(CCCCC)=C)C | C18H26S
